US07091214B2
A solution of 1-(4-aminobutyl)-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine (2.00 g, 5.1 mmol) in chloroform (36 mL) was cooled to 0° C., and a cold solution of isopropyl isocyanate (0.50 mL, 5.4 mmol) in chloroform (4 mL) was added slowly. A precipitate formed, and the reaction was stirred for 45 minutes. The reaction mixture was triturated with ethyl acetate (200 mL), and the precipitate was isolated by filtration and dried for three days in a drying oven to provide 1.86 g of N-{4-[4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}—N′-(1-methylethyl)urea as a white solid, mp 211° C.

reactant | 1-(4-aminobutyl)-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.1 mmol, 2.00 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC | C17H22BrN5O
reactant | isopropyl isocyanate | 5.4 mmol, 0.50 mL | C(C)(C)N=C=O | C4H7NO
solvent | chloroform | 36 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]butyl}—N′-(1-methylethyl)urea | 1.86 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNC(=O)NC(C)C)COCC)Br | C21H29BrN6O2
